* DC simulation for bias current and power dissipation

.lib dc1
 
VIN	inp 0	dc 0
VDD	vdd 0	'step'
VSS	0 vss	'step'
 
X1	s inp out vdd vss	opamp
R1	s 0			valr1
R2	out s			valr2
 
.PARAM half='psvoltage/2' valr1=10k valr2=10k
* .DC VIN -0.01 0.01 0.01 SWEEP step POI 3 '0.9*half' 'half' '1.1*half'
.DC VIN -0.1 0.1 0.1 SWEEP step POI 3 '0.9*half' 'half' '1.1*half'
.TEMP -40 25 80

.MEAS DC ivdd FIND I(VDD) AT=0
.MEAS DC ivss FIND I(VSS) AT=0
.MEAS DC ib   PARAM='max(abs(ivdd),abs(ivss))'
.MEAS DC pdis PARAM='ib*2*step'

.endl dc1
